US07737295B2
[3-amino-5-(trifluoromethyl)phenyl]methanol (500 mg, 5.2 mmol) was suspended in CH2I2 (5 mL) and t-butyl nitrite (622 μL, 5.2 mmol) was added dropwise by syringe. The reaction was heated slowly to 100° C. and was maintained at this temperature for 30 minutes. The reaction was then cooled to room temperature, diluted with hexanes (50 mL), loaded on a silica gel column, and purified with 100% hexanes to 25% EtOAc/hexanes to afford [3-iodo-5-(trifluoromethyl)phenyl]methanol. Rf=0.19 (15% EtOAc/hexanes). 1H NMR (CDCl3, 500 MHz) δ 7.91 (s, 1H), 7.87 (s, 1H), 7.59 (s, 1H), 4.73 (d, J=4.9 Hz, 2H), 1.86 (t, J=5.6 Hz, 1H).

reactant | [3-amino-5-(trifluoromethyl)phenyl]methanol | 5.2 mmol, 500 mg | NC=1C=C(C=C(C1)C(F)(F)F)CO | C8H8F3NO
reactant | t-butyl nitrite | 5.2 mmol, 622 μL | N(=O)OC(C)(C)C | C4H9NO2
reactant | CH2I2 | 5 mL | C(I)I | CH2I2
product | [3-iodo-5-(trifluoromethyl)phenyl]methanol | IC=1C=C(C=C(C1)C(F)(F)F)CO | C8H6F3IO
